US08445480B2
Step B. 3-Amino-4-hydroxy-5-methylbenzonitrile
Iron chloride hexahydrate (9.6 mg), 4-hydroxy-3-methyl-5-nitrobenzonitrile (126 mg), and 77 mg of activated carbon were suspended in 5 ml of methanol and heated under N2 at 70° C. for 10 min. Hydrazine (0.11 ml) was then added slowly and the mixture was stirred for 2 h at 70° C. The mixture was then cooled to room temperature and filtered through a plug of Celite, eluting with methanol. The eluent was concentrated in vacuo and the residue was purified on a 2×1500 micron preparative TLC plate, eluting with ethyl acetate (Rf=0.24), to provide 101 mg (96%) of the title compound. Mass spectrum (ESI) 150.1 (M+1). 1H NMR (500 MHz, CDCl3): □ 6.93 (s, 1H), 6.91 (s, 1H), 5.21 (bs, 1H), 3.76 (bs, 2H), 2.42 (s, 3H).

reactant | 4-hydroxy-3-methyl-5-nitrobenzonitrile | 126 mg | OC1=C(C=C(C#N)C=C1[N+](=O)[O-])C | C8H6N2O3
reactant | Hydrazine | 0.11 ml | NN | H4N2
solvent | methanol | 5 ml | CO | CH4O
catalyst | Iron chloride hexahydrate | 9.6 mg | O.O.O.O.O.O.[Fe](Cl)Cl
product | 3-Amino-4-hydroxy-5-methylbenzonitrile | 101 mg, 96% | NC=1C=C(C#N)C=C(C1O)C | C8H8N2O
